US07456289B2
2N HCl (5 mL) was added to 3-[1,3]dioxolan-2-yl-6-methoxy-2-methyl-benzofuran in THF (5 mL) at 0° C. After stirring for 1 h at room temperature, the solvent was removed under reduced pressure. The residue was dissolved in EtOAc and washed with saturated NaHCO3. The aqueous layer was extracted with EtOAc (3×20 mL). The organic layers were combined and dried over anhydrous MgSO4. After the solvent was removed, the residue was purified on a silica gel column eluting with EtOAc/hexane (1:9) to give 6-methoxy-2-methylbenzofuran-3-carbaldehyde (0.090 g, 81%).

reactant | HCl | 2N, 5 mL | Cl | ClH
reactant | 3-[1,3]dioxolan-2-yl-6-methoxy-2-methyl-benzofuran | O1C(OCC1)C1=C(OC2=C1C=CC(=C2)OC)C | C13H14O4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 6-methoxy-2-methylbenzofuran-3-carbaldehyde | 0.090 g, 81% | COC1=CC2=C(C(=C(O2)C)C=O)C=C1 | C11H10O3
